US07067537B2
iii) Production of ethyl 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoate
By the reaction in the same manner as in Example 25-iii) using ethyl 3-(bromoacetyl)benzoate (18.10 g) and 4-methylpyridine-3-thiocarboxamide (8.11 g), the title compound (6.50 g) was obtained as pale-yellow powder crystals.

reactant | ethyl 3-(bromoacetyl)benzoate | 18.10 g | BrCC(=O)C=1C=C(C(=O)OCC)C=CC1 | C11H11BrO3
reactant | 4-methylpyridine-3-thiocarboxamide | 8.11 g | CC1=C(C=NC=C1)C(N)=S | C7H8N2S
product | ethyl 3-[2-(4-methylpyridin-3-yl)-1,3-thiazol-4-yl]benzoate | 6.50 g | CC1=C(C=NC=C1)C=1SC=C(N1)C=1C=C(C(=O)OCC)C=CC1 | C18H16N2O2S
